US06040345
1.0 of 3,5-Dichloro-4-(1-methyl-2,2,3,3,3-pentafluoropropoxy)aniline was placed in a flask to which was added 15 mL of 1,2-dichloroethane. With stirring, 0.62 g 2.6-difluorobenzoyl isocyanate was added all at once to the mixture. The mixture was warmed to near reflux for one hour then cooled to room temperature and stirred overnight. It was then concentrated under vacuum to give 2.30 g crude product. The product was recrystallized from toluene, giving 208 mg of 1-(2,6-difluorobenzoyl)-3-[3,5-dichloro-4-(1-methyl-2,2,3,3,3-pentafluoropropoxy)phenyl]urea. 1H NMR: 10.59 (s, 1H) 9.58 (s, 1H), 7.34 (m, 3H), 7.07 (t, J=8.4 Hz,2H), 5.09 (m, 1H). MS: 506 m/z. IR:1746(s), 1710(s), 1539(s), 1470(m).

reactant | 3,5-Dichloro-4-(1-methyl-2,2,3,3,3-pentafluoropropoxy)aniline | ClC=1C=C(N)C=C(C1OC(C(C(F)(F)F)(F)F)C)Cl | C10H8Cl2F5NO
reactant | 2.6-difluorobenzoyl isocyanate | 0.62 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | 1,2-dichloroethane | 15 mL | ClCCCl | C2H4Cl2
product | 1-(2,6-difluorobenzoyl)-3-[3,5-dichloro-4-(1-methyl-2,2,3,3,3-pentafluoropropoxy)phenyl]urea | 208 mg | FC1=C(C(=O)NC(=O)NC2=CC(=C(C(=C2)Cl)OC(C(C(F)(F)F)(F)F)C)Cl)C(=CC=C1)F | C18H11Cl2F7N2O3
